US06107329
((1S)-Methyl-2-morpholin-4-yl-2-oxo-ethyl)-carbamic acid tert-butyl ester
BOC-L-Alanine (3.50 mg, 20 mmol) and morpholine (1.74 g, 20 mmol) were coupled according to procedure A (washed with 1N NaOH after acid washes) giving a colorless oil which was used without further purification. Yield 3.94 g, 76%.

reactant | BOC-L-Alanine | 20 mmol, 3.50 mg | C(=O)(OC(C)(C)C)N[C@@H](C)C(=O)O | C8H15NO4
reactant | morpholine | 20 mmol, 1.74 g | N1CCOCC1 | C4H9NO
reactant | NaOH | 1N | [OH-].[Na+]
product | ((1S)-Methyl-2-morpholin-4-yl-2-oxo-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H](C(=O)N1CCOCC1)C)=O | C12H22N2O4
